US08217064B2
2-(5-cyclopropylmethoxy-2-fluoro-4-nitro-phenyl)-4-methyl-pentanoic acid cyclopropylmethyl ester (10.0 g, 26.4 mmol) was dissolved in EtOH (200 mL) and hydrogenated at 50 psi, 25° C. for 24 h over 10% Pd—C (1 g). The mixture was filtered and the solvent evaporated to give crude a brown oil, which was purified by column chromatography over silica gel (Heptane-EtOAc gradient) to give 6.7 g, (72%) of 2-(5-cyclopropylmethoxy-2-fluoro-4-amino-phenyl)-4-methyl-pentanoic acid cyclopropylmethyl ester as a yellow oil. 1H NMR (300 MHz, CDCl3/TMS): δ 6.73 (d, J=6.9 Hz, 1H), 6.40 (d, J=11.0 Hz, 1H), 4.00-3.70 (m, 5H), 1.91-1.81 (m, 1H), 1.65-1.56 (m, 1H), 1.51-1.39 (m, 1H), 1.28-1.18 (m, 1H), 1.12-1.00 (m, 1H), 0.90 (d, J=6.6 Hz, 6H), 0.63-0.57 (m, 2H), 0.53-047 (m, 2H), 0.35-0.28 (m, 2H), 0.25-0.18 (m, 2H); 13C NMR (75 MHz, CDCl3/TMS): δ 174.2, 154.8 (d, 1JCF=236.0 Hz), 142.6, 136.6 (d, 3JCF=11.5 Hz), 114.1 (d, 2JCF=16.8 Hz), 111.6 (d, 3JCF=4.8 Hz), 101.6 (d, 2JCF=28.2 Hz), 73.8, 69.2, 42.1, 40.8, 25.9, 22.7, 22.2, 10.5, 9.8, 3.2.

reactant | 2-(5-cyclopropylmethoxy-2-fluoro-4-nitro-phenyl)-4-methyl-pentanoic acid cyclopropylmethyl ester | 26.4 mmol, 10.0 g | C1(CC1)COC(C(CC(C)C)C1=C(C=C(C(=C1)OCC1CC1)[N+](=O)[O-])F)=O | C20H26FNO5
solvent | EtOH | 200 mL | CCO | C2H6O
catalyst | Pd—C | 1 g | [Pd] | Pd
product | 2-(5-cyclopropylmethoxy-2-fluoro-4-amino-phenyl)-4-methyl-pentanoic acid cyclopropylmethyl ester | 72% | C1(CC1)COC(C(CC(C)C)C1=C(C=C(C(=C1)OCC1CC1)N)F)=O | C20H28FNO3
